US08349824B2
A mixture of 2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine (945 mg, 4.49 mmol), 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (1.07 g, 5.39 mmol), propylphosphonic anhydride (50% in ethyl acetate, 6.62 ml, 11.2 mmol) and diisopropylethylamine (3.93 ml, 22.5 mmol) in tetrahydrofurane (50 ml) is stirred for 2.5 days at 25° C. The crude material is loaded on silicagel and purified by flash chromatography on a 50 g silica column using heptane/ethyl acetate 20-100% and then ethyl acetate/methanol 10-30% as eluent. The fractions containing product are evaporated to dryness and the residue (4.23 g light yellow solid) is dissolved in tetrahydrofurane (20 ml); sodium bicarbonate solution (30 ml) is added and the mixture is stirred for 30 minutes at 25° C. The solid is collected by filtration, washed with water and dried affording ethyl 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate (1.336 g, 76.1%) as an off-white solid. mp.: 242-3° C. MS: m/z=391.2 (M+H+).

reactant | 2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 4.49 mmol, 945 mg | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2)N)=N1 | C12H10N4
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 5.39 mmol, 1.07 g | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
reactant | propylphosphonic anhydride | 11.2 mmol, 6.62 ml | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 22.5 mmol, 3.93 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | ethyl 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylate | 1.336 g, 76.1% | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)OCC | C20H18N6O3
